US08426420B2
iii) 4-Butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester
To a solution of 4.4 g 4-amino-piperidine-1-carboxylic acid benzyl ester hydrotrifluoroacetate and 5.3 ml triethylamine in 100 ml dichloromethane were added 1.8 ml butylchloroformate dropwise at 0° C. The suspension was stirred for 12 h, diluted with dichloromethane and washed with 0.1 M HCl and aqueous NaHCO3. The crude product was purified by flash chromatography on silica using ethyl acetate/heptan 1:2 as eluent.

reactant | 4-amino-piperidine-1-carboxylic acid benzyl ester | 4.4 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N | C13H18N2O2
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
reactant | butylchloroformate | 1.8 ml | C(CCC)OC(=O)Cl | C5H9ClO2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-Butoxycarbonylamino-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)NC(=O)OCCCC | C18H26N2O4
